US07935715B2
To a solution of 2.99 g (9.29 mmol) of 1-(4-trifluoromethyl -benzenesulfonyl)-cyclopropanecarboxylic acid ethyl ester in THF/water (1/1, 50 mL) were added 0.82 g (19.5 mmol) of lithium hydroxide monohydrate. The reaction was stirred at room temperature for 18 h. The organic solvent was removed under reduced pressure and the aqueous layer washed with diethyl ether (2×50 mL). The basic aqueous layer was cooled in an ice bath and acidified with 1M aqueous HCl solution to pH 2. The acidic aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and filtered. Concentration of the filtrate under reduced pressure afforded 2.19 g of 1-(4-trifluoromethyl-benzenesulfonyl)-cyclopropanecarboxylic acid.

reactant | 1-(4-trifluoromethyl -benzenesulfonyl)-cyclopropanecarboxylic acid ethyl ester | 9.29 mmol, 2.99 g | C(C)OC(=O)C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C13H13F3O4S
reactant | lithium hydroxide monohydrate | 19.5 mmol, 0.82 g | O.[OH-].[Li+]
solvent | isopropanol chloroform | 50 mL | C(C)(C)O.C(Cl)(Cl)Cl
product | 1-(4-trifluoromethyl-benzenesulfonyl)-cyclopropanecarboxylic acid | 2.19 g | FC(C1=CC=C(C=C1)S(=O)(=O)C1(CC1)C(=O)O)(F)F | C11H9F3O4S
